US05710162
Synthesis of 6-(2-dimethylaminoethoxy)-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on (compound 64)
To a solution prepared with sodium (1.78 g, 77.4 mmol) and 2-dimethylaminoethanol (80 ml, 796 mmol) was added 6-chloro-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on (8 g, 25.8 mmol) obtained in reference example 2, and the mixture was stirred with heat at 60° C. for 24 hours. The reaction mixture was poured into ice water and extracted with chloroform. The chloroform layer was dried over magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (eluent; chloroform:methanol=10:1(v/v)) and crystallized from ethyl acetate to give 6.37 g (yield: 68.1%) of title compound. The physicochemical properties thereof are shown in table 2.

reactant | sodium | 77.4 mmol, 1.78 g | [Na] | Na
reactant | 2-dimethylaminoethanol | 796 mmol, 80 ml | CN(CCO)C | C4H11NO
reactant | 6-chloro-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on | 25.8 mmol, 8 g | ClC1=NC2=CC=CC=C2C2=C1C(C1=CC3=C(C=C12)OCO3)=O | C17H8ClNO3
product | 6-(2-dimethylaminoethoxy)-9,10-methylenedioxy-7H-indeno[2,1-c]quinoline-7-on | 6.37 g, yield: 68.1% | CN(CCOC1=NC2=CC=CC=C2C2=C1C(C1=CC3=C(C=C12)OCO3)=O)C | C21H18N2O4
